US05364871
A solution of 4-(acetylaminomethyl)pyridine N-oxide (17.5 g), trimethylsilanecarbonitrile (53 ml) and triethylamine (43 ml) in acetonitrile (180 ml) was refluxed for 7 hours with stirring. After evaporation of the solvent, the residue was diluted with water and extracted with a mixture of ethyl acetate and tetrahydrofuran. The extract was dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed on silica gel (430 g) by eluting with a mixture of ethyl acetate and methanol (50:1) followed by recrystallization with a mixture of ethyl acetate and diisopropyl ether to give 4-(acetylaminomethyl)-2-pyridinecarbonitrile (8.66 g).

reactant | 4-(acetylaminomethyl)pyridine N-oxide | 17.5 g | C(C)(=O)NCC1=CC=[N+](C=C1)[O-] | C8H10N2O2
reactant | trimethylsilanecarbonitrile | 53 ml | C[Si](C#N)(C)C | C4H9NSi
reactant | triethylamine | 43 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 180 ml | C(C)#N | C2H3N
product | 4-(acetylaminomethyl)-2-pyridinecarbonitrile | 8.66 g | C(C)(=O)NCC1=CC(=NC=C1)C#N | C9H9N3O
